* Passive band-stop filter
Vin in 0 AC 1
R1 in n1 1k
R2 n1 out 1k
C1 n1 0 159n
C2 in n2 159n
C3 n2 out 159n
R3 n2 0 500
Rload out 0 100k
.ac dec 100 10 1Meg
.end
